US06002008
Methyl 2-(dimethylaminomethyleneamino)-4,5-diethoxybenzoate
To a stirred solution of methyl 2-amino-4,5-diethoxybenzoate (4.79 g, 20 mmol) in 20 ml of DMF at 0° C. was added phosphorous oxychloride (2.24 ml, 24 mmol) during 15 m. The mixture was warmed to 55° C. and stirred for 45 m. The resulting solution was diluted with methylene chloride, cooled to 0° C., and treated with 80 ml of precooled N/1 sodium hydroxide during 5 m. The organic layer was separated and washed at 0° C. with with water. The solution was dried and concentrated to give an amber oil; NMR (CDCl3) δ 3.00(s, ME2N).

reactant | methyl 2-amino-4,5-diethoxybenzoate | 20 mmol, 4.79 g | NC1=C(C(=O)OC)C=C(C(=C1)OCC)OCC | C12H17NO4
reactant | phosphorous oxychloride | 24 mmol, 2.24 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Methyl 2-(dimethylaminomethyleneamino)-4,5-diethoxybenzoate | CN(C)C=NC1=C(C(=O)OC)C=C(C(=C1)OCC)OCC | C15H22N2O4
